US05272147
5-(2-Ethoxy-5-methanesulphonamidophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
Methanesulphonyl chloride (0.157 g, 0.00137 mol) was added to a stirred solution of 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one (0.45 g, 0.00137 mol) in dry pyridine (30 ml) at 0° C. The mixture was stirred for 18 hours at room temperature and then evaporated under vacuum. The residue was suspended in saturated aqueous sodium bicarbonate solution (50 ml) and the mixture extracted with dichloromethane (2×30 ml). The organic extracts were combined, washed with brine (2×30 ml), dried (Na2SO4) an evaporated under vacuum. The residue was triturated with ether, chromatographed on silica gel (12 g), eluting with a 98.5:1.5 mixture of dichloromethane and methanol, and the required product crystallised form ethyl acetate-hexane to give the title compound as a white powder (0.32 g, 58%), m.p. 205°-206° C. Found: C,53.63; H,5.66; N,17.24. C18H23N5O4S requires C,53.32; H,5.72; N,17.27%.

reactant | Methanesulphonyl chloride | 0.00137 mol, 0.157 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(5-amino-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.00137 mol, 0.45 g | NC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H21N5O2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2-Ethoxy-5-methanesulphonamidophenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.32 g, 58% | C(C)OC1=C(C=C(C=C1)NS(=O)(=O)C)C=1NC(C2=C(N1)C(=NN2C)CCC)=O | C18H23N5O4S
